2122-09-20 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-9-19**] 06:17 PM
 SPUTUM CULTURE - At [**2122-9-19**] 08:00 PM
 ARTERIAL LINE - START [**2122-9-20**] 01:03 AM
 BLOOD CULTURED - At [**2122-9-20**] 04:48 AM
   from aline and peripheral
 FEVER - 103.0
F - [**2122-9-19**] 12:00 PM
   Transfused one unit pRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2122-9-19**] 12:32 PM
   Vancomycin - [**2122-9-19**] 08:05 PM
   Doxycycline - [**2122-9-19**] 08:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-20**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-19**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-20**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.4
C (101.1
   HR: 107 (79 - 120) bpm
   BP: 91/48(62) {91/48(62) - 132/67(87)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  6,501 mL
                                                                  2,096 mL
   PO:
           TF:
   IVF:
                                                                  6,126 mL
                                                                  1,798 mL
   Blood products:
                                                                    375 mL
                                                                    298 mL
   Total out:
                                                                    610 mL
                                                                    460 mL
   Urine:
                                                                    610 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,891 mL
                                                                  1,636 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI: 67
   PIP: 12 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/36/124/25/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 155
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   10.5 g/dL
   121 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   38 mg/dL
   112 mEq/L
   143 mEq/L
   31.8 %
   26.5 K/uL
        [image002.jpg]
                            [**2122-9-19**]  04:58 PM
                            [**2122-9-19**]  05:08 PM
                            [**2122-9-19**]  06:53 PM
                            [**2122-9-20**]  04:10 AM
                            [**2122-9-20**]  04:34 AM
   WBC
   29.1
   26.5
   Hct
   29.1
   26.8
   31.8
   Plt
   94
   84
   Cr
   1.2
   0.9
   TCO2
   25
   21
   Glucose
   141
   121
   Other labs: PT / PTT / INR:24.7/34.3/2.4, ALT / AST:28/33, Alk Phos / T
   Bili:149/0.8, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:1026 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:1.8 g/dL, LDH:753 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   PT: 24.7
   PTT: 34.3
   INR: 2.4
   Fibrinogen: 1026
   LIPID/CHOLESTEROL
                                   Cholest
                                   Triglyc
                                     HDL
   [1][**2122-9-20**] 04:10AM
                                     PND
                                     PND
                                     PND
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [2][**2122-9-20**] 04:10AM
                                     28
                                     33
                                    753*
   149*
   0.8
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   EHRLICHIA CHAFFEENSIS (HUMAN MONOCYTIC EHRLICHIOSIS) IGG AND IGM
   MYCOPLASMA PNEUMONIAE ANTIBODY IGM
   PARATHYROID HORMONE RELATED PROTEIN
   VITAMIN D [**1-4**] DIHYDROXY
   VITAMIN D 25 HYDROXY
   [3][**2122-9-19**] 04:58PM
   PND
   [4][**2122-9-19**] 04:58PM
   PND
   [5][**2122-9-18**] 05:20PM
   PND
   [6][**2122-9-18**] 05:20PM
   PND
   [7][**2122-9-18**] 05:20PM
   PND
   [8][**2122-9-16**] 09:00PM
   PND
   [9][**2122-9-16**] 09:00PM
   PND
   [10][**2122-9-16**] 09:00PM
   PND
   [11][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [12][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [13][**2122-9-19**]
   URINE
   Legionella Urinary Antigen -FINAL
   [14][**2122-9-19**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   [15][**2122-9-19**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [16][**2122-9-19**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [17][**2122-9-19**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [18][**2122-9-19**]
   URINE
   URINE CULTURE-PENDING
   [19][**2122-9-18**]
   SEROLOGY/BLOOD
   RAPID PLASMA REAGIN TEST-PENDING
   [20][**2122-9-18**]
   SEROLOGY/BLOOD
   LYME SEROLOGY-PENDING
   [21][**2122-9-17**]
   CSF;SPINAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ACID FAST
   CULTURE-PRELIMINARY; VIRAL CULTURE-PRELIMINARY
   [22][**2122-9-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [23][**2122-9-16**]
   URINE
   URINE CULTURE-FINAL
   [24][**2122-9-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
   66 year old gentleman with h/o lung CA s/p resection and no adjuvant
   chemo/XRT who presents with acute febrile illness, mediastinal
   lymphadenopathy, pulmonary infiltrates, confusion/delirium, and
   anemia/leukocytosis concerning for heme malignancy vs lung ca
   recurrence with possibility of superimposed hospital-acquired
   pneumonia.
   # Fever: High fevers with negative blood cultures to date could be
   broad between neoplastic, infectious, and rheumatologic entities. Given
   the enlarged mediastinal nodes, this could be lymphoma/myelodyscrasia,
   adenoca of lung or pancreas, squamous ca, or a reactive process to
   infection. The pulmonary infiltrates suggest a superimposed pneumonic
   process, that could be bacterial, or less likely eosinophilic pneumonia
   or fungal pneumonia. DAH or DIP is less likely given distribution.
   Given elevated ferritin >assay ([**2112**]), HLH/hemophagocytic syndrome
   merits consideration. BM bx pending for presence. This is doubtfult to
   be primary sweets, and the neutrophilic dermatosis seen on OSH is
   likely secondary to the as of yet undetermined process.
   - For Infectious Sources
    -- continue broad spectrum antibiotics with vancomycin, pip-tazo.
    -- change to azithro to doxycycline pending atypical w/u, ehrlichia
   smear
    -- add fungal markers glucan/galactomannan
    -- bronch for BAL, cytology and cultures
    -- f/u ID recs
   - For neoplastic processes
    -- f/u bone marrow biopsy
    -- f/u heme onc recs
    -- we will need to obtain tissue of the lymph node, possibly under
   bronchoscopy if possible. f/u CTS for biopsy
   - IV decadron [**Hospital1 7**] today and then start prednisone 10 mg in AM
   (treatment of Sweets)
   # Hypotension: warm, likely distributive, no clear e/o shock at this
   point
   - IVF for support, alternate LR with saline given hyperchloremia.
   # Altered Mental Status: likely delirium, though cannot r/o
   encephalitis. viral encephalitis serologies are pending. Hypercalcemia
   also contributing, although now corrected. ? carcinoma meningitis.
   - will discuss with IR possibility of cisternal CSF sampling and
   rediscuss with the neurology consulting team.  Presently on hold.
   - if no head MRI at OSH, will need MRI head here today
   # Pneumonia, Atypical vs. Hospital Acquired, hypoxia, increased AA
   gradient. basilar infiltrates suspicious for superimposed infectious
   process, though certainly this could be neoplastic. Also ? aspiration/
   mucous plugging today
   - BAL today
   - continue vanc/zosyn/doxycycline
   # Back Pain: likely exacerbation of chronic LBP. OSH MRI per d/c
   summary showed no mass/abscess.
   - obtain MRI from OSH for reads here at [**Hospital1 19**]
   # Coagulopathy: Concerning picture for consumptive coagulopathy vs. DIC
   given rising INR, and now presence of schistocytes that are a new
   finding.
   - Will continue supportive care for now.
   - [**Hospital1 7**] fibrinogen
   - consider vitamin K
   # History of Lung Cancer: Unknown type, will seek additional records.
   Lymph node supicious for recurrence or a second malignancy.  Tissue
   diagnosis is needed if marrow bx is unrevealing. Would start with
   subcarinal node first, and potential VATS bx if unrevealing
   # Leukocytosis: still elevated today
   - f/u cultures
   - c. difficile today
   - f/u peripheral flow cytometry here
   - f/u bone marrow bx. At this point, appears stressed marrow reaction,
   but presence of atypical cells is concerning for heme malignancy.
   # Anemia: Elevated ferretin favors anemia of chronic disease.
   - guiaic all stools
   - [**Hospital1 7**] Hct
   - active T&S
   # Thrombocytopenia: Given elevated INR, this is likely related to a
   consumptive coagulopathy.  HIT merits consideration given
   hospitalization, though coincidence with rising INR and marrow process
   suggest a more plausible alternate explanation. Her pre-test
   probability [**Doctor Last Name 392**] on 4Ts is 3, and with 0-3 being low will not send
   PF4 test at this time, nor start anticoagulation.
   Also consider vancomycin.
   - trend plts
   - transfuse for active bleeding or plt<10
   # Hypercalcemia: rec'd IV pamidronate, and IV fluids.  PTH is not
   suppressed and is indeed high, suggesting a primary
   hyperparathyroidism. PTHrP pending here.
   - would consider scan for parathyroid adenoma, though will defer this
   and treat hypercalcemia at this point given critical illness.
   # Sweet
s Syndrome / Neutrophilic Dermatoses: likely secondary to a
   second process
   - continuing to taper steroids, with caveat that if pt clinically
   worsens we may need to actually increase steroids. Unclear what is
   being treated at this juncture.
   # FEN
   - NPO for now.
   - Maintenance with NS, alternating with LR.
   ICU Care
   Nutrition: NPO except meds, Nutrition c/s in
   Glycemic Control:
   Lines:  RIJ placed today
   20 Gauge - [**2122-9-19**] 01:19 PM
   18 Gauge - [**2122-9-19**] 06:36 PM
   Arterial Line - [**2122-9-20**] 01:03 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_66%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_91%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_92%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_93%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_94%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_95%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_96%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_97%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_98%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2122-09-20 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    66 year old man with PMHx lung cancer 6 yrs ago, s/p RUL lobectomy (no
   chemo or XRT), as well as spondolithiasis s/p two laminectomies.  He
   initially presented to [**Hospital 755**] Hospital in mid-[**Month (only) 539**].  He lives in
   [**State 5568**], although he and his wife have been in the process of moving
   back to [**Location (un) 23**].  About two weeks after returning from [**State 5568**] he began
   to have lower back pain, first on the right and then on the left as
   well.  He then developed fevers and a cough.  He was also
   intermittently confused.  CT/MRI of the head and spine notable only for
   a intervertebral disc protrusion.  He also developed a progressive
   leukocytosis, but all cultures have remained negative.  He developed a
   facial rash while at [**Location (un) 755**], with a biopsy consistent with Sweet
   syndrome.  This resolved with steroids.  A bone marrow biopsy
   reportedly showed myelodysplasia bot no frank malignancy.  He was
   briefly on broad-spectrum antibiotics as well as acyclovir, but these
   were then discontinued in light of the lack of evidence of infection.
   He also had some angioedema of the tongue while there, which resolved.
   Multiple attempts at LP were made, but were unsuccessful.  He was
   treated empirically with steroids, with no benefit.  He was also found
   to be hyperfcalcemic, and was treated with pamidronate.  He was
   eventually transferred here on [**9-16**] for further evaluation.
         Since being transferred here he has been evaluated by neurology,
   infectious disease, heme-onc and rheumatology.  Bone marrow biopsy has
   been repeated and is pending.  LP was done, but appears to have been a
   very bloody tap, so has not been very helpful diagnostically.  He has
   continued to be febrile daily as high as 103, and has had waxing and
   [**Doctor Last Name 533**] mental status.  Other notable findings have been a very high
   ferritin, declining platelets, declining HCT, and continued
   leukocytosis, although this is trending down as well.  Over the past
   1-2 days he has had some worsening shortness of breath, and CT of the
   chest shows some peripheral infiltrates and significant
   lymphadenopathy, including a 4cm subcarinal node.  He was transferred
   to the MICU this afternoon due to increased work of breathing and
   worsening hypoxemia.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-9-19**] 06:17 PM
 SPUTUM CULTURE - At [**2122-9-19**] 08:00 PM
 ARTERIAL LINE - START [**2122-9-20**] 01:03 AM
 BLOOD CULTURED - At [**2122-9-20**] 04:48 AM
   from aline and peripheral
 FEVER - 103.0
F - [**2122-9-19**] 12:00 PM
   -Right IJ placed [**9-20**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-9-19**] 08:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-20**] 06:00 AM
   Vancomycin - [**2122-9-20**] 07:36 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-19**] 08:05 PM
   Other medications:
   Decadron 1mg IV q8
   Lidoderm patch
   chlorhexadine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.7
C (101.6
   HR: 101 (79 - 120) bpm
   BP: 102/52(68) {91/48(62) - 132/67(87)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  6,501 mL
                                                                  2,591 mL
   PO:
           TF:
   IVF:
                                                                  6,126 mL
                                                                  2,014 mL
   Blood products:
                                                                    375 mL
                                                                    577 mL
   Total out:
                                                                    610 mL
                                                                    505 mL
   Urine:
                                                                    610 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,891 mL
                                                                  2,086 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: AC
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI: 67
   PIP: 12 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/36/124/25/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General: intuabted, sedated
   HEENT:PERRL
   CV:RRR, no m/r/g
   PULM:very coarse breath sounds, and bilateral tactile fremitus
   ABD:soft, NT
   EXTREM:[**12-12**]+ edema bilat
   NEURO:sedated. Unresponsive
   Labs / Radiology
   10.5 g/dL
   84 K/uL
   121 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   38 mg/dL
   112 mEq/L
   143 mEq/L
   31.8 %
   26.5 K/uL
        [image002.jpg] CXR: new dense consolidation RML/RLL.
   Diffuse              fluffy infiltrates
                            [**2122-9-19**]  04:58 PM
                            [**2122-9-19**]  05:08 PM
                            [**2122-9-19**]  06:53 PM
                            [**2122-9-20**]  04:10 AM
                            [**2122-9-20**]  04:34 AM
   WBC
   29.1
   26.5
   Hct
   29.1
   26.8
   31.8
   Plt
   94
   84
   Cr
   1.2
   0.9
   TCO2
   25
   21
   Glucose
   141
   121
   Other labs: PT / PTT / INR:24.7/34.3/2.4, ALT / AST:28/33, Alk Phos / T
   Bili:149/0.8, Differential-Neuts:74.0 %, Band:4.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:1026 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:1.8 g/dL, LDH:753 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL. Smear: rare schistocytes. Parasite smear negative
   Assessment and Plan
   66 year old man with fevers, leukocytosis, thrombocytopenia,
   hypercalcemia, rash consistent with Sweet
s syndrome, and now nodular
   peripheral pulmonary infiltrates and significant mediastinal
   lymphadenopathy as well as a pancreatic lesion seen on CT.  He is
   transferred to the MICU for increased work of breathing and hypoxemia.
   NEURO:  Mental status waxes and wanes, and extensive imaging of the CNS
   all negative.  Unclear if LP was a valid sample.  Currently appears to
   be a toxic-metabolic encephalopathy.  Now intubated, sedated.  Will
   receive imaging from OSH today and will review it with radiology here.
   Neuro had recommended cisternal tap to eval CSF, but holding off for
   now.
   PULMONARY:   Worsening hypoxemia and increased work of breathing.  The
   cause for the infiltrates seen on CT is unclear.  Infection seems
   unlikely in light of his lack of inprovement on antibiotics (which were
   restarted here) and the so far negative work up. The nodular appearance
   and the impressive lymphadenopathy in conjunction with his labs suggest
   some hematologic or inflammatory cause.  Intubated yesterday.
   Increased PEEP this AM, and blood gas improving.  Weaning FiO2.   Will
   plan for bronch/BAL today.  Also consulted thoracics for possible
   mediastinoscopy for node biopsy
   CV: Hypotension, unclear etiology.  Suspect SIRS picture, although
   whether or not there is infection present is unclear.  [**Name2 (NI) 10653**] as
   needed to maintain BP, and will start pressors if needed.  Central line
   placed for more access, and BP currently stable with fluids.
   ID: All cultures to date are negative, sputum culture pending.  Being
   covered broadly with vanco, pip-tazo, and doxycycline.  ID following
   with us.  Bronch/Bal planned for today.  Parasite smear sent today
   negative. Continue empiric antibiotics
   RHEUM:  The high fevers, lymphadenopathy, very high ferritin and ESR,
   and sweet
s syndrome are all suggestive of some sort of rheumatologic
   process,  Still
s disease can cause may of these findings, but would
   not explain his pulmonary findings or the now-developing hypotension
   and respiratory failure.   The fact that he failed to improved after
   several days of decadron does go against  most rheumatologic causes,
   but biopsy of a lymph node will be helpful in ruling this out.
   Currently eaning decadron to off.  If he worsens clinically, we may
   need to increase steroids again to see if this has any effect.
   HEME: Suspect neoplastic process and now developing DIC.  Schistocytes
   seen on the last peripheral smear, although fibrinogen was elvevated
   when checked earlier today.  Will continue to trend haptoglobin and
   fibrinogen.  Repeat bone marrow biopsy pending.  Transfused pRBC
   overnight.  Platelets stable, WBC stable in the mid 20
s.  FFP given
   today for central line placement.
   ICU Care
   Nutrition: NPO for now.  After bronchoscopy will initiate tube feeds
   Glycemic Control:  monitor fingersticks
   Lines:
   20 Gauge - [**2122-9-19**] 01:19 PM
   18 Gauge - [**2122-9-19**] 06:36 PM
   Arterial Line - [**2122-9-20**] 01:03 AM
   Prophylaxis:
   DVT: holding due to high INR and low platelets
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : ICU
   Total time spent: 40 min
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient and reviewed his hospital course to
   date and labs and imaging. I was present for the key portions of the
   services provided. I have also reviewed Dr [**Last Name (STitle) **]
s note above and agree
   with her findings and plan of care.  Mr [**Known lastname 10650**] presents a challenging
   case of a man with high fevers, leukocytosis, resp failure from
   bilateral nodular opacities, large mediastinal adenopathy, and abnl
   mentation, all  with a past hx of resected lung cancer.  The diff dx is
   broad, including infectious and non infectious (eg, sarcoid, COP/BOOP,
   etc) inflammatory conditions and neoplasm, including hematologic.  On
   exam it sounds like he may also have a pericardial friction rub and I
   would consider cardiac echo.  This afternoon he
s more hypoxic and
   rhonchorous likely due to earlier BAL with retained fluid. If BAL is
   not diagnostic I would move quickly to definitive lung bx or
   mediastinoscopy.  Meanwhile the pt remains broadly covered with
   antibiotics as we await BMbx and BAL results.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   35 min spent in the care of this critically ill pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2122-9-20**] 20:00 ------

2122-09-21 07:59:00 Physician Attending Progress Note
Chief Complaint: fever, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    66 year old man with PMHx lung cancer 6 yrs ago, s/p RUL lobectomy (no
   chemo or XRT), as well as spondolithiasis s/p two laminectomies.  He
   initially presented to [**Hospital 755**] Hospital in mid-[**Month (only) 539**].  He lives in
   [**State 5568**], although he and his wife have been in the process of moving
   back to [**Location (un) 23**].  About two weeks after returning from [**State 5568**] he began
   to have lower back pain, first on the right and then on the left as
   well.  He then developed fevers and a cough.  He was also
   intermittently confused.  CT/MRI of the head and spine notable only for
   a intervertebral disc protrusion.  He also developed a progressive
   leukocytosis, but all cultures have remained negative.  He developed a
   facial rash while at [**Location (un) 755**], with a biopsy consistent with Sweet
   syndrome.  This resolved with steroids.  A bone marrow biopsy
   reportedly showed myelodysplasia bot no frank malignancy.  He was
   briefly on broad-spectrum antibiotics as well as acyclovir, but these
   were then discontinued in light of the lack of evidence of infection.
   He also had some angioedema of the tongue while there, which resolved.
   Multiple attempts at LP were made, but were unsuccessful.  He was
   treated empirically with steroids, with no benefit.  He was also found
   to be hyperfcalcemic, and was treated with pamidronate.  He was
   eventually transferred here on [**9-16**] for further evaluation.
         Since being transferred here he has been evaluated by neurology,
   infectious disease, heme-onc and rheumatology.  Bone marrow biopsy has
   been repeated and is pending.  LP was done, but appears to have been a
   very bloody tap, so has not been very helpful diagnostically.  He has
   continued to be febrile daily as high as 103, and has had waxing and
   [**Doctor Last Name 533**] mental status.  Other notable findings have been a very high
   ferritin, declining platelets, declining HCT, and continued
   leukocytosis, although this is trending down as well.  From [**Date range (1) 10680**]
   he had some worsening shortness of breath, and CT of the chest shows
   some peripheral infiltrates and significant lymphadenopathy, including
   a 4cm subcarinal node.  He was transferred to the MICU for hypoxemic
   respiratory failure and was intubated on the day of transfer.
   24 Hour Events:
 MULTI LUMEN - START [**2122-9-20**] 09:34 AM
 FEVER - 102.8
F - [**2122-9-21**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-20**] 06:00 AM
   Doxycycline - [**2122-9-20**] 07:26 PM
   Vancomycin - [**2122-9-21**] 07:55 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-20**] 08:07 PM
   Atrovent
   Other medications:
   Colace
   Prednisone 10mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-21**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100
   HR: 129 (98 - 129) bpm
   BP: 90/54(64) {86/50(62) - 130/85(94)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 16 (10 - 359)mmHg
   Total In:
                                                                  6,675 mL
                                                                  1,066 mL
   PO:
   TF:
   IVF:
                                                                  6,098 mL
                                                                  1,006 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                  1,490 mL
                                                                    480 mL
   Urine:
                                                                  1,490 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,185 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 563) mL
   PC : 15 cmH2O
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 90%
   ABG: 7.34/43/84.[**Numeric Identifier 1000**]/27/-2
   Ve: 13.8 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General:intubated, sedated, no response to voice
   HEENT:pupils pinpoint
   CV:tachy, regular, difficult to auscultate over breath sounds
   Pulm:very coarse bilaterall, no wheezes
   GI:soft, ND, no masses or HSM
   Extrem:1+ edema all extrem, no cyanosis
   Skin:no rashes
   Neuro:sedated
   Labs / Radiology
   9.8 g/dL
   71 K/uL
   123 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   111 mEq/L
   142 mEq/L
   30.7 %
   26.2 K/uL
        [image002.jpg]
                            [**2122-9-20**]  09:00 AM
                            [**2122-9-20**]  10:02 AM
                            [**2122-9-20**]  11:13 AM
                            [**2122-9-20**]  04:20 PM
                            [**2122-9-20**]  04:52 PM
                            [**2122-9-20**]  07:34 PM
                            [**2122-9-20**]  10:26 PM
                            [**2122-9-21**]  02:53 AM
                            [**2122-9-21**]  03:11 AM
                            [**2122-9-21**]  06:04 AM
   WBC
   28.8
   26.2
   Hct
   31
   30.0
   30.7
   Plt
   74
   71
   Cr
   1.0
   0.9
   TCO2
   27
   23
   24
   27
   24
   26
   28
   24
   Glucose
   99
   123
   Other labs: PT / PTT / INR:20.0/27.6/1.8, ALT / AST:22/41, Alk Phos / T
   Bili:135/1.0, Differential-Neuts:54.0 %, Band:12.0 %, Lymph:5.0 %,
   Mono:17.0 %, Eos:0.0 %, D-dimer:3053 ng/mL, Fibrinogen:904 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:881 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   66 year old man with fevers, leukocytosis, thrombocytopenia,
   hypercalcemia, rash consistent with Sweet
s syndrome, and now nodular
   peripheral pulmonary infiltrates and significant mediastinal
   lymphadenopathy as well as a pancreatic lesion seen on CT.  He is
   transferred to the MICU for increased work of breathing and hypoxemia.
   FEVER:  Unclear etiology.  Covering broadly with antibiotics.  All
   cultures negative to date.  ? neoplastic cause.  Records from [**State 5568**]
   now reveal that his past lung tumor was a carcinoid.  ? if this is
   metastatic carcinoid.  Will consult endocrine today. Treating fever
   with tylenol/motrin/cooling blanket.
   NEURO:  No clear cause, likely toxic/metabolic form underlying process,
   but planning repeat MRI brain and spine when stable enough.
   PULMONARY:   Worsening hypoxemia and increased work of breathing.  The
   cause for the infiltrates seen on CT is unclear.  Infection seems
   unlikely in light of his lack of inprovement on antibiotics (which were
   restarted here) and the so far negative work up. The nodular appearance
   and the impressive lymphadenopathy in conjunction with his labs suggest
   some hematologic or inflammatory cause.  Intubated yesterday.
   Increased tachypnea overnight.  Blood gases show adequate oxygenation,
   but he is much more tachycardic, and sats only 93%  on 80%.  Not
   responsive to trials of higher PEEP, and will keep on 8 of PEEP for
   now.  [**Month (only) 51**] need higher sedation to decrease accessory muscles use and
   lower expiratory pressures.
   CV: Hypotension, unclear etiology.  Suspect SIRS picture, although
   whether or not there is infection present is unclear.  Was on levophed
   since yesterday afternoon, but more tachycardica as well. ? adrenal
   insufficiency from rapid steroid taper.  Will try stress dose steroids
   to see if BP improves.  Also will switch pressor to neo to minimize
   tachyphylaxis.  TTE done a few days ago with very poor windows.
   Concerned about valvular disease or tachymyopathy as cause for
   worsening tachycardia.  Will plan for TEE tomorrow.
   ID: All cultures to date are negative, sputum culture pending.  Being
   covered broadly with vanco, pip-tazo, and doxycycline.  ID following
   with us.  Bronch/Bal planned for today.  Parasite smear sent today
   negative. Continue empiric antibiotics
   RHEUM:  The high fevers, lymphadenopathy, very high ferritin and ESR,
   and sweet
s syndrome are all suggestive of some sort of rheumatologic
   process,  Still
s disease can cause may of these findings, but would
   not explain his pulmonary findings or the now-developing hypotension
   and respiratory failure.   The fact that he failed to improved after
   several days of decadron does go against  most rheumatologic causes,
   but biopsy of a lymph node will be helpful in ruling this out.
   Currently weaning decadron to off, but now trying stress dose steroids
   due to hypotension.
   HEME: Suspect neoplastic process and now developing DIC.  Schistocytes
   seen on the last peripheral smear, although fibrinogen was elvevated
   when checked earlier today.  Will continue to trend haptoglobin and
   fibrinogen.  Repeat bone marrow biopsy pending.  Hct and platelets
   stable overnight.  Got vitamin K for coagulopathy, INR now 1.8.  HIT
   antibody snet per heme recs.  He is not currently on any heparin.
   ENDO:  History of lung carcinoid as above.  We are now questioning if
   his presnetation could be secondary to metastatic carcinoid.  Also has
   high PTH and hypercalcemia, and a pancreatic lesion.  Endocrine consult
   placed today. Hyperclcemia has resolved (one dose pamidronate given at
   OSH).
   ICU Care
   Nutrition: will start TF today
   Glycemic Control:  monitor fingersticks [**Hospital1 7**]
   Lines:
   18 Gauge - [**2122-9-19**] 06:36 PM
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT: none. INR 1.8. Platelets 71
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition :ICU
   Total time spent: 50 min

2122-09-21 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RIJ placed
   - CTS consulted for mediastinal biopsy; have discussed with IP also and
   would like transbronchial biopsy but once off vent
   - CTS: to follow, address elevated INR, discuss with IP re: TBNA
   - ID: continue zosyn/vanc/doxy, check trough, check c. diff, check BAL
   - Neuro: no recs
   - Heme/onc: send Hit Ab, BM bx still pending, check DIC panel and
   peripheral smear in AM, cbc with diff in AM
   - Nutrition c/s placed for tube feeds
   - decreased IV decadron to [**Hospital1 7**]
   - Bronch completed --> PEEP 10, FiO2 100% --> weaned to FiO2 60% -->
   increased to FiO2 80% around 2 AM after tachy to 120s and febrile with
   pO2 60s
   - OSH MRI to be scanned for 2nd read
   - held off on MRI head / back given HD instablility
   - sent HIV with approval from ethics team
   - bolused 2 L LR at 2 PM for SBP 85 due to collapsible IJ --> started
   levophed
   - T 101 --> cultured at 4 PM
   - gave Vitamin K 5 mg x 1 for INR 2.3
   - updated family, full code confirmed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-20**] 06:00 AM
   Doxycycline - [**2122-9-20**] 07:26 PM
   Piperacillin - [**2122-9-20**] 10:34 PM
   Vancomycin - [**2122-9-21**] 07:55 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-20**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-21**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100
   HR: 129 (98 - 129) bpm
   BP: 90/54(64) {86/50(62) - 130/85(94)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 16 (10 - 359)mmHg
   Total In:
                                                                  6,675 mL
                                                                  1,069 mL
   PO:
   TF:
   IVF:
                                                                  6,098 mL
                                                                  1,009 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                  1,490 mL
                                                                    480 mL
   Urine:
                                                                  1,490 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,185 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 563) mL
   PC : 15 cmH2O
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0                   6am:
                                     pH
                                    7.34
                                    pCO2
                                     43
                                     pO2
                                     84
                                    HCO3
                                     24
                                   BaseXS
                                     -2
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:80; AADO2:462; Req:76;
   Rate:/17; PEEP:10
   Lactate:1.4
   O2Sat: 95
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 90%
   ABG: 7.34/43/84.[**Numeric Identifier 1000**]/27/-2
   Ve: 13.8 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   9.8 g/dL
   123 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   111 mEq/L
   142 mEq/L
   30.7 %
   26.2 K/uL
        [image002.jpg]  HIV-Ab: Pnd
   PT: 20.0
   PTT: 27.6
   INR: 1.8
   Fibrinogen: 904
                            [**2122-9-20**]  09:00 AM
                            [**2122-9-20**]  10:02 AM
                            [**2122-9-20**]  11:13 AM
                            [**2122-9-20**]  04:20 PM
                            [**2122-9-20**]  04:52 PM
                            [**2122-9-20**]  07:34 PM
                            [**2122-9-20**]  10:26 PM
                            [**2122-9-21**]  02:53 AM
                            [**2122-9-21**]  03:11 AM
                            [**2122-9-21**]  06:04 AM
   WBC
   28.8
   26.2
   Hct
   31
   30.0
   30.7
   Plt
   74
   71
   Cr
   1.0
   0.9
   TCO2
   27
   23
   24
   27
   24
   26
   28
   24
   Glucose
   99
   123
   Other labs: PT / PTT / INR:20.0/27.6/1.8, ALT / AST:22/41, Alk Phos / T
   Bili:135/1.0, Differential-Neuts:54.0 %, Band:12.0 %, Lymph:5.0 %,
   Mono:17.0 %, Eos:0.0 %, D-dimer:3053 ng/mL, Fibrinogen:904 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:881 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   EHRLICHIA CHAFFEENSIS (HUMAN MONOCYTIC EHRLICHIOSIS) IGG AND IGM
   MYCOPLASMA PNEUMONIAE ANTIBODY IGM
   PARATHYROID HORMONE RELATED PROTEIN
   VITAMIN D [**1-4**] DIHYDROXY
   VITAMIN D 25 HYDROXY
   [1][**2122-9-19**] 04:58PM
   PND
   [2][**2122-9-19**] 04:58PM
   PND
   [3][**2122-9-18**] 05:20PM
   PND
   [4][**2122-9-18**] 05:20PM
   PND
   [5][**2122-9-18**] 05:20PM
   PND
   [6][**2122-9-16**] 09:00PM
   PND
   [7][**2122-9-16**] 09:00PM
   PND
   [8][**2122-9-16**] 09:00PM
   PND
   [9][**2122-9-20**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE- NO MICROORGANISMS SEEN;
   Immunoflourescent test for Pneumocystis jirovecii (carinii)-PENDING
   [10][**2122-9-20**]
   IMMUNOLOGY
   HIV-1 Viral Load/Ultrasensitive-PENDING
   [11][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [12][**2122-9-20**]
   URINE
   URINE CULTURE-PENDING
   [13][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [14][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [15][**2122-9-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [16][**2122-9-19**]
   URINE
   Legionella Urinary Antigen -FINAL
   [17][**2122-9-19**]
   SPUTUM
   GRAM STAIN- NO MICROORGANISMS SEEN.; RESPIRATORY CULTURE-PRELIMINARY
   [18][**2122-9-19**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL  REJECTED
   [19][**2122-9-19**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [20][**2122-9-19**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [21][**2122-9-19**]
   URINE
   URINE CULTURE-FINAL
   [22][**2122-9-18**]
   SEROLOGY/BLOOD
   RAPID PLASMA REAGIN TEST-NON-REACTIVE
   [23][**2122-9-18**]
   SEROLOGY/BLOOD
   LYME SEROLOGY-PENDING
   [24][**2122-9-17**]
   CSF;SPINAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE- NO GROWTH; ACID FAST
   CULTURE-PRELIMINARY; VIRAL CULTURE-PRELIMINARY
   [25][**2122-9-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [26][**2122-9-16**]
   URINE
   URINE CULTURE-FINAL
   [27][**2122-9-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [**2122-9-20**]
   BRONCHIAL WASHINGS
   [**2122-9-21**]
   [**Last Name (LF) 145**],[**First Name3 (LF) **] D.
   Logged Only
   Assessment and Plan
   66 year old gentleman with h/o lung CA s/p resection and no adjuvant
   chemo/XRT who presents with acute febrile illness, mediastinal
   lymphadenopathy, pulmonary infiltrates, confusion/delirium, and
   anemia/leukocytosis concerning for heme malignancy vs lung ca
   recurrence with possibility of superimposed hospital-acquired
   pneumonia.
   # Fever: High fevers with negative blood cultures to date could be
   broad between neoplastic, infectious, and rheumatologic entities. Given
   the enlarged mediastinal nodes, this could be lymphoma/myelodyscrasia,
   adenoca of lung or pancreas, squamous ca, or a reactive process to
   infection. The pulmonary infiltrates suggest a superimposed pneumonic
   process, that could be bacterial, or less likely eosinophilic pneumonia
   or fungal pneumonia. DAH or DIP is less likely given distribution.
   Given elevated ferritin >assay ([**2112**]), HLH/hemophagocytic syndrome
   merits consideration. BM bx pending for presence. This is doubtfult to
   be primary sweets, and the neutrophilic dermatosis seen on OSH is
   likely secondary to the as of yet undetermined process.
    - For Infectious Sources
    -- continue broad spectrum antibiotics with vancomycin, pip-tazo.
    -- change to azithro to doxycycline pending atypical w/u, ehrlichia
   smear
    -- add fungal markers glucan/galactomannan
    -- bronch for BAL, cytology and cultures
    -- f/u ID recs
   - For neoplastic processes
    -- f/u bone marrow biopsy
    -- f/u heme onc recs
    -- we will need to obtain tissue of the lymph node, possibly under
   bronchoscopy if possible. f/u CTS for biopsy
   - IV decadron [**Hospital1 7**] today and then start prednisone 10 mg in AM
   (treatment of Sweets)
   # Hypotension: warm, likely distributive, no clear e/o shock at this
   point
   - IVF for support, alternate LR with saline given hyperchloremia.
   # Altered Mental Status: likely delirium, though cannot r/o
   encephalitis. viral encephalitis serologies are pending. Hypercalcemia
   also contributing, although now corrected. ? carcinoma meningitis.
   - will discuss with IR possibility of cisternal CSF sampling and
   rediscuss with the neurology consulting team.  Presently on hold.
   - if no head MRI at OSH, will need MRI head here today
   # Pneumonia, Atypical vs. Hospital Acquired, hypoxia, increased AA
   gradient. basilar infiltrates suspicious for superimposed infectious
   process, though certainly this could be neoplastic. Also ? aspiration/
   mucous plugging today
   - BAL today
   - continue vanc/zosyn/doxycycline
   # Back Pain: likely exacerbation of chronic LBP. OSH MRI per d/c
   summary showed no mass/abscess.
   - obtain MRI from OSH for reads here at [**Hospital1 19**]
   # Coagulopathy: Concerning picture for consumptive coagulopathy vs. DIC
   given rising INR, and now presence of schistocytes that are a new
   finding.
   - Will continue supportive care for now.
   - [**Hospital1 7**] fibrinogen
   - consider vitamin K
   # History of Lung Cancer: Unknown type, will seek additional records.
   Lymph node supicious for recurrence or a second malignancy.  Tissue
   diagnosis is needed if marrow bx is unrevealing. Would start with
   subcarinal node first, and potential VATS bx if unrevealing
   # Leukocytosis: still elevated today
   - f/u cultures
   - c. difficile today
   - f/u peripheral flow cytometry here
   - f/u bone marrow bx. At this point, appears stressed marrow reaction,
   but presence of atypical cells is concerning for heme malignancy.
   # Anemia: Elevated ferretin favors anemia of chronic disease.
   - guiaic all stools
   - [**Hospital1 7**] Hct
   - active T&S
   # Thrombocytopenia: Given elevated INR, this is likely related to a
   consumptive coagulopathy.  HIT merits consideration given
   hospitalization, though coincidence with rising INR and marrow process
   suggest a more plausible alternate explanation. Her pre-test
   probability [**Doctor Last Name 392**] on 4Ts is 3, and with 0-3 being low will not send
   PF4 test at this time, nor start anticoagulation.
   Also consider vancomycin.
   - trend plts
   - transfuse for active bleeding or plt<10
   # Hypercalcemia: rec'd IV pamidronate, and IV fluids.  PTH is not
   suppressed and is indeed high, suggesting a primary
   hyperparathyroidism. PTHrP pending here.
   - would consider scan for parathyroid adenoma, though will defer this
   and treat hypercalcemia at this point given critical illness.
   # Sweet
s Syndrome / Neutrophilic Dermatoses: likely secondary to a
   second process
   - continuing to taper steroids, with caveat that if pt clinically
   worsens we may need to actually increase steroids. Unclear what is
   being treated at this juncture.
   # FEN
   - NPO for now.
   - Maintenance with NS, alternating with LR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 06:36 PM
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.  To that I would add the
   following:  Mr. [**Known lastname 10650**] remains very ill with respiratory failure,
   fevers, high WBC, hypotension requiring pressors.  We do not have a
   unifying dx at this point
 awaiting bone marrow biopsy final results.
   Unfortunately, he is too sick at this point for mediastinal node
   sampling.  We will continue with ARDSnet ventilation strategy, though I
   am concerned that his left lung is more complaint than R and is seeing
   most of the delivered volume.  Cont current abx regimen.  Also starting
   empiric high dose steroids at 125mg iv SoluMedrol q8hrs given multiple
   possible indications of systemic inflammatory process.  Pt is
   critically ill.  Time spent: 45 minutes.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_129%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_130%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_131%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_132%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_133%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_134%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_135%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_136%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22,640,400,50,50,1);
  26. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22,640,400,50,50,1);
  27. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22,640,400,50,50,1);

2122-09-22 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -hypotensive, pressor changed from levo to neo [**1-12**] tachycardia
   -increased to stress dosed steroids and ventilation improved, urine
   output improved and pressors were weaned down after that
   -found out his old cancer was carcinoid
   -endo consult: try to obtain surgical pathology and other post-op
   recordsfrom the time of the patient's prior chest surgery 6 years ago.
   Send 5-HIAA and CgA. Do not think carcinoid syndrome
   -IP and thoracics do not want to do mediastinal node biopsy when he is
   this sic
   -abd u/s ordered to see if there was splenomegaly which may support HLH
   -tube feeds held for residuals
   -developed ARDS ventilates left lung better
   -onc feels prognosis poor, even if they get dx on tues or wed from BM
   it is unlikely he could be treated when he is so sick
   -CK, Uric acid normal
   -EBV sent
   -lactate rising, given 2L IVF bolus
   -bed side echo with normal EF
   -vanc dose increased for low trough
   -family updated after onc reported feeling that he had heme malignancy
   ?aml that his prognosis was poor, SW involved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-20**] 06:00 AM
   Vancomycin - [**2122-9-21**] 07:51 PM
   Doxycycline - [**2122-9-21**] 07:51 PM
   Piperacillin - [**2122-9-22**] 05:58 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 200 mcg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-21**] 07:56 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: n/a
   Flowsheet Data as of  [**2122-9-22**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.5
C (99.5
   HR: 96 (94 - 131) bpm
   BP: 104/52(68) {90/50(62) - 137/64(90)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 85.6 kg
   Height: 69 Inch
    CVP: 10 (6 - 17)mmHg
   Total In:
                                                                  4,834 mL
                                                                  1,439 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                  4,709 mL
                                                                  1,439 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    360 mL
   Urine:
                                                                  1,055 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,779 mL
                                                                  1,079 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 570 (0 - 634) mL
   PC : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.34/44/84/24
   Ve: 8.9 L/min
   PaO2 / FiO2: 105
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   9.0 g/dL
   137 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   49 mg/dL
   111 mEq/L
   141 mEq/L
   27.2 %
   27.4 K/uL
        [image002.jpg]
                            [**2122-9-21**]  03:11 AM
                            [**2122-9-21**]  06:04 AM
                            [**2122-9-21**]  08:40 AM
                            [**2122-9-21**]  02:28 PM
                            [**2122-9-21**]  03:46 PM
                            [**2122-9-21**]  04:05 PM
                            [**2122-9-21**]  08:16 PM
                            [**2122-9-21**]  11:00 PM
                            [**2122-9-22**]  03:22 AM
                            [**2122-9-22**]  03:42 AM
   WBC
   36.4
   27.4
   Hct
   30
   31
   30.9
   31
   27.2
   Plt
   86
   67
   Cr
   1.4
   1.4
   TCO2
   28
   24
   24
   16
   25
   24
   24
   25
   Glucose
   143
   137
   Other labs: PT / PTT / INR:14.2/27.7/1.2, CK / CKMB / Troponin-T:48//,
   ALT / AST:21/54, Alk Phos / T Bili:130/1.1, Amylase / Lipase:23/15,
   Differential-Neuts:60.0 %, Band:8.0 %, Lymph:12.0 %, Mono:7.0 %,
   Eos:0.0 %, D-dimer:3053 ng/mL, Fibrinogen:1020 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:2.0 g/dL, LDH:1236 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   66 year old gentleman with h/o carcinoid  lung CA s/p resection and no
   adjuvant chemo/XRT who presents with acute febrile illness, mediastinal
   lymphadenopathy, pulmonary infiltrates, confusion/delirium, and
   anemia/leukocytosis concerning for heme malignancy vs carcinoid ca
   recurrence with possibility of superimposed hospital-acquired
   pneumonia.
   # Fever: High fevers with negative blood cultures to date could be
   broad between neoplastic, infectious, and rheumatologic entities. Given
   the enlarged mediastinal nodes, this could be lymphoma/myelodyscrasia,
   adenoca of lung or pancreas, squamous ca, or a reactive process to
   infection. The pulmonary infiltrates suggest a superimposed pneumonic
   process, that could be bacterial, or less likely eosinophilic pneumonia
   or fungal pneumonia. DAH or DIP is less likely given distribution.
   Given elevated ferritin >assay ([**2112**]), HLH/hemophagocytic syndrome
   merits consideration. BM bx pending for presence. This is doubtfult to
   be primary sweets, and the neutrophilic dermatosis seen on OSH is
   likely secondary to the as of yet undetermined process.
    - For Infectious Sources
    -- continue broad spectrum antibiotics with vancomycin, pip-tazo, doxy
    -- f/u  ehrlichia smear
    -- f/u fungal markers glucan/galactomannan
    -- f/u bronch for BAL, cytology and cultures
    -- f/u ID recs
   - For neoplastic processes
    -- f/u bone marrow biopsy
    -- f/u heme onc recs
   -- endo consult
   -- 600mg motrin alternating with Tylenol for defervese
    -- we will need to obtain tissue of the lymph node, possibly under
   bronchoscopy if possible. f/u CTS for biopsy
   -- start stress dose steroids today for hypotension and potential
   treatment of Sweets
   -possible TEE on tuesday
   # Hypotension: warm, likely distributive, no clear e/o shock at this
   point
   - IVF for support, alternate LR with saline given hyperchloremia
   -switch pressor support  to neo map>55
   -stress dose steroids today for potential adrenal suppression
    #Acute renal failure
   -U/A, urine lytes
   # Altered Mental Status: likely delirium, though cannot r/o
   encephalitis. viral encephalitis serologies are pending. Hypercalcemia
   also contributing, although now corrected. ? carcinoma meningitis.
   - will discuss with IR possibility of cisternal CSF sampling and
   rediscuss with the neurology consulting team.  Presently on hold.
   - if no head MRI at OSH, will need MRI head here but will hold off
   given instability
   # Pneumonia, Atypical vs. Hospital Acquired, hypoxia, increased AA
   gradient. basilar infiltrates suspicious for superimposed infectious
   process, though certainly this could be neoplastic. Also ? aspiration/
   mucous plugging today and ARDS. Working hard to breath on vent.
   - f/u BAL cultures
   -appreciate ID recs
   - continue vanc/zosyn/doxycycline
   - increase PEEP on vent, f/u repeat ABG
   # Back Pain: likely exacerbation of chronic LBP. OSH MRI per d/c
   summary showed no mass/abscess.
   - hold off repeating MRI for now given hemodynamic instability
   # Coagulopathy: Concerning picture for consumptive coagulopathy vs. DIC
   given rising INR, and now presence of schistocytes that are a new
   finding. Platelets falling.
   - f/u HIT antibodies
   - Will continue supportive care for now.
   - [**Hospital1 7**] fibrinogen
   - consider vitamin K for INR>2
   # History of Lung Cancer: OSH show history of carcinoid. Lymph node
   supicious for recurrence or a second malignancy.  Tissue diagnosis is
   needed if marrow bx is unrevealing. Would start with subcarinal node
   first, and potential VATS bx if unrevealing.
   -d/w IP
   # Leukocytosis: still elevated today
   - f/u cultures
   - c. difficile today
   - f/u peripheral flow cytometry here
   - f/u bone marrow bx. At this point, appears stressed marrow reaction,
   but presence of atypical cells is concerning for heme malignancy.
   -appreciate heme/onc recs
   # Anemia: Elevated ferretin favors anemia of chronic disease. Potential
   source of bleeding include gastritis.
   - guiaic all stools
   - [**Hospital1 7**] Hct
   - active T&S
   # Thrombocytopenia: Given elevated INR, this is likely related to a
   consumptive coagulopathy.  HIT merits consideration given
   hospitalization, though coincidence with rising INR and marrow process
   suggest a more plausible alternate explanation. Her pre-test
   probability [**Doctor Last Name 392**] on 4Ts is 3, and with 0-3 being low will not send
   PF4 test at this time, nor start anticoagulation.
   Also consider vancomycin.
   - trend plts
   - transfuse for active bleeding or plt<10
   -f/u hit antibodies
   # Hypercalcemia: rec'd IV pamidronate, and IV fluids.  PTH is not
   suppressed and is indeed high, suggesting a primary
   hyperparathyroidism. PTHrP pending here.
   -endo consult today
   - would consider scan for parathyroid adenoma, though will defer this
   and treat hypercalcemia at this point given critical illness.
   # Sweet
s Syndrome / Neutrophilic Dermatoses: likely secondary to a
   second process
   - stress dosed steroid for now
   # FEN
   - starting tube feeds today
   - Maintenance with NS, alternating with LR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-09-23 07:43:00 Physician Resident Progress Note
Chief Complaint: Fever, back pain
   24 Hour Events:
 ULTRASOUND - At [**2122-9-22**] 08:30 AM
   LUQ of spleen
 FEVER - 101.6
F - [**2122-9-23**] 04:00 AM
   -HIT+ started argatroban gtt, heme fellow to request optical density
   -Cr to 1.4, UNa <10 gave 500 cc NS
   -abd U/S showed borderline splenomegaly
   -ordered LE doppler u/s given hypoxemia & HIT+ but couldn't be done
   until [**9-23**]
   -heme said continue high-dose steroids
   -started insulin SS given hyperglycemia on 'roids
   -neuro rec cisternal LP & MRI (as did ID) but didn't want to send off
   floor when this sick
   -BMBx (per onc fellow) nondiagnostic study with dysplastic cells from
   all cell lines, normal cytogenetics c/w MDS or myeloproliferate d/o;
   peripheral blood showed dysplastic PMN's with abnl cells but in a range
   of maturation
   -NS 500 cc bolus x 2 for rising lactate
   -ordered c. diff given abd distention, lactate but no BM
   -neo gtt d/c
   -PM vanco dose held due to supratherapeutic level, reduced dose to 1 g
   q12h given Cr rise & checking trough level
   -D5W @ 200 cc/hr x 2 L started for freeH20 deficit Na 148
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-9-22**] 09:48 AM
   Doxycycline - [**2122-9-22**] 08:00 PM
   Piperacillin - [**2122-9-23**] 05:54 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Argatroban - 2 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-23**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 101 (89 - 102) bpm
   BP: 105/60(75) {92/43(57) - 132/93(98)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95 kg (admission): 85.6 kg
   Height: 69 Inch
    CVP: 13 (6 - 17)mmHg
   Total In:
                                                                  4,439 mL
                                                                    607 mL
   PO:
   TF:
                                                                     74 mL
   IVF:
                                                                  4,245 mL
                                                                    607 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    460 mL
   Urine:
                                                                  1,400 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,039 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 670 (0 - 670) mL
   PC : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: 7.38/38/102/22/-1
   Ve: 10.8 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: No(t) Pupils dilated, pinpoint pupils
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Wheezes : , No(t) Absent : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   tympanic
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   59 K/uL
   7.6 g/dL
   144 mg/dL
   1.7 mg/dL
   22 mEq/L
   5.1 mEq/L
   69 mg/dL
   116 mEq/L
   148 mEq/L
   24.4 %
   24.5 K/uL
        [image002.jpg]
                            [**2122-9-21**]  08:16 PM
                            [**2122-9-21**]  11:00 PM
                            [**2122-9-22**]  03:22 AM
                            [**2122-9-22**]  03:42 AM
                            [**2122-9-22**]  10:45 AM
                            [**2122-9-22**]  12:21 PM
                            [**2122-9-22**]  02:33 PM
                            [**2122-9-22**]  06:04 PM
                            [**2122-9-23**]  03:52 AM
                            [**2122-9-23**]  04:12 AM
   WBC
   27.4
   24.5
   Hct
   31
   27.2
   30
   24.4
   Plt
   67
   59
   Cr
   1.4
   1.7
   TCO2
   24
   24
   25
   24
   24
   22
   23
   23
   Glucose
   137
   144
   Other labs: PT / PTT / INR:30.8/69.9/3.1, CK / CKMB / Troponin-T:48//,
   ALT / AST:23/43, Alk Phos / T Bili:109/0.7, Amylase / Lipase:23/15,
   Differential-Neuts:60.0 %, Band:8.0 %, Lymph:12.0 %, Mono:7.0 %,
   Eos:0.0 %, D-dimer:3053 ng/mL, Fibrinogen:1020 mg/dL, Lactic Acid:2.6
   mmol/L, Albumin:2.0 g/dL, LDH:937 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.0 mg/dL
   Imaging: KUB [**9-22**] - Non-specific bowel gas pattern. No evidence of
   bowel distention. No free air. No AFLs. NGT in stomach. RLL
   atelectasis.
   LUQ [**9-22**] - Borderline splenomegaly.
   Microbiology: EBV - P
   BAL [**9-20**] - No growth
   Assessment and Plan
   66 year old gentleman with h/o carcinoid  lung CA s/p resection and no
   adjuvant chemo/XRT who presents with acute febrile illness, mediastinal
   lymphadenopathy, pulmonary infiltrates, confusion/delirium, and
   anemia/leukocytosis concerning for heme malignancy vs carcinoid ca
   recurrence, as well as hypoxemic respiratory failure due to ARDS.
   #Hypoxemic resp failure [**1-12**] ARDS
 continues to be difficult to
   oxygenate; Cx data neg to date
   - low Vt ventilation, cont current PEEP setting
   - wean FiO2 to maintain PO2 > 80
   - cont broad-spectrum ABX (vanc/zosyn/doxy day 5) for empiric PNA cov
   - f/u BAL cultures
   .
   # Fever: High fevers with negative blood cultures to date could be
   broad between neoplastic, infectious, and rheumatologic entities. Given
   the enlarged mediastinal nodes, this could be lymphoma/myelodyscrasia,
   adenoca of lung or pancreas, squamous ca, or a reactive process to
   infection. The pulmonary infiltrates suggest a superimposed pneumonic
   process, that could be bacterial, or less likely eosinophilic pneumonia
   or fungal pneumonia. DAH or DIP is less likely given distribution.
   Given elevated ferritin >assay ([**2112**]), HLH/hemophagocytic syndrome
   merits consideration. BM bx pending for presence. This is doubtfult to
   be primary sweets, and the neutrophilic dermatosis seen on OSH is
   likely secondary to the as of yet undetermined process.
    - For Infectious Sources
    -- continue broad spectrum antibiotics with vancomycin, pip-tazo, doxy
    -- f/u  ehrlichia smear
    -- f/u fungal markers glucan/galactomannan
    -- f/u bronch for BAL, cytology and cultures
    -- f/u ID recs
   - For neoplastic processes
   -- LUQ U/S showed borderline splenomegaly
   -- f/u bone marrow biopsy - prelim MDS
   -- f/u heme onc recs
   -- appreciate endo recs
   -- 600mg motrin alternating with Tylenol for defervese
   -- we will need to obtain tissue of the lymph node, possibly under
   bronchoscopy, if possible. f/u CTS for biopsy
   -- f/u CT scan showing pancreatic nodules concerning for malignancy
   # Distributive shock
 switched levo to neo for tachycardia, able to
   wean, now off pressures
   -cont stress dose steroids (day 3)
    #Acute renal failure - 3L positive yesterday but continues but Cr
   continues to rise
   - U/A, urine lytes show pre-renal (FeNa .2), given 1.5L NS yesterday
   - no urine eos
   - continues to make good urine
   - [**Hospital1 **] lytes
   # Altered Mental Status: likely delirium, though cannot r/o
   encephalitis. viral encephalitis serologies are pending. Hypercalcemia
   also contributing, although now corrected. ? carcinoma meningitis.
   - will discuss with IR possibility of cisternal CSF sampling and
   rediscuss with the neurology consulting team.  Presently on hold.
   - defer MRI pending better clinical stability
   # Back Pain: likely exacerbation of chronic LBP. OSH MRI per d/c
   summary showed no mass/abscess.
   - hold off repeating MRI for now given hemodynamic instability
   # Coagulopathy: Concerning picture for consumptive coagulopathy vs. DIC
   given rising INR, and now presence of schistocytes that are a new
   finding. Platelets falling.
   - HIT antibody positive, will follow-up optical density and send off
   SRA
   - Will continue supportive care for now.
   - Continue argatroban
   - Appreciate heme recs
   # History of Lung Cancer: OSH show history of carcinoid. Lymph node
   supicious for recurrence or a second malignancy.  Tissue diagnosis is
   needed if marrow bx is unrevealing. Would start with subcarinal node
   first, and potential VATS bx if unrevealing.
   -d/w IP
   # Leukocytosis: likely MDS but now on high dose steroids
   - f/u cultures - NGTD
   - c. difficile today
   - f/u peripheral flow cytometry here
   - f/u bone marrow bx. At this point, appears to be MDS.
   -appreciate heme/onc recs
   # Anemia: Elevated ferretin favors anemia of chronic disease. Potential
   source of bleeding include gastritis.
   - guaiac all stools
   - active T&S
   - pm HCT
   # Thrombocytopenia: Given elevated INR, this is likely related to a
   consumptive coagulopathy.  HIT merits consideration given
   hospitalization, though coincidence with rising INR and marrow process
   suggest a more plausible alternate explanation. Her pre-test
   probability [**Doctor Last Name 392**] on 4Ts is 3, and with 0-3 being low did not start
   anticoagulation initially but now HIT positive.
   Also consider vancomycin.
   - Continue argatroban
   - trend plts
   - transfuse for active bleeding or plt<10
   - f/u hit antibodies
   # Hypercalcemia: rec'd IV pamidronate, and IV fluids.  PTH is not
   suppressed and is indeed high, suggesting a primary
   hyperparathyroidism. PTHrP pending here.
   - endo consult today
   - would consider scan for parathyroid adenoma, though will defer this
   and treat hypercalcemia at this point given critical illness.
   - replete VitaminD?
   # Sweet
s Syndrome / Neutrophilic Dermatoses: likely secondary to a
   second process
   - stress dosed steroid for now
   - try to get path reports and slides for OSH
   # FEN
   - cont tube feeds
   - Maintenance with NS, alternating with LR.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2122-09-24 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sent SRA
   - LENIs neg
   - PEEP decreased to 10, then back up to 12 for O2 sat 90s
   - ID recs:  d/c'd vanc, zosyn, continued on doxy
   - IP recs:  requesting ETT of 8.5 and PEEP <5 prior to bronch,
   otherwise consider EUS-guided bx
   - Endo recs:  sent chromogranin A and 5-HIAA
   - Heme recs:  await final bone marrow biospy, cont. argtroban
   - Neuro recs:  signed off until LP/MRI
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2122-9-23**] 05:54 AM
   Vancomycin - [**2122-9-23**] 09:40 AM
   Doxycycline - [**2122-9-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-24**] 06:05 AM
   Infusions:
   Argatroban - 2 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   ISS
   Methylpred
   Pantoprazole
   Lidocaine patch
   Reglan
   Vitamin D
   Senna/Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-24**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 100 (82 - 111) bpm
   BP: 119/68(86) {96/52(68) - 142/104(116)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 85.6 kg
   Height: 69 Inch
    CVP: 10 (9 - 18)mmHg
   Total In:
                                                                  4,120 mL
                                                                    576 mL
   PO:
   TF:
                                                                    160 mL
                                                                     67 mL
   IVF:
                                                                  3,600 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    675 mL
   Urine:
                                                                  1,935 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,185 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 610 (0 - 780) mL
   PC : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.41/33/75/19/-2
   Ve: 14.7 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: pinpoint pupil, dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, No(t) Crackles
   : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   45 K/uL
   7.8 g/dL
   151 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.4 mEq/L
   72 mg/dL
   112 mEq/L
   141 mEq/L
   24.1 %
   29.5 K/uL
        [image002.jpg]
                            [**2122-9-22**]  06:04 PM
                            [**2122-9-23**]  03:52 AM
                            [**2122-9-23**]  04:12 AM
                            [**2122-9-23**]  11:36 AM
                            [**2122-9-23**]  01:16 PM
                            [**2122-9-23**]  03:52 PM
                            [**2122-9-23**]  04:23 PM
                            [**2122-9-24**]  03:58 AM
                            [**2122-9-24**]  04:42 AM
                            [**2122-9-24**]  06:36 AM
   WBC
   24.5
   29.5
   Hct
   24.4
   24.1
   Plt
   59
   45
   Cr
   1.7
   1.7
   1.6
   TCO2
   23
   23
   22
   21
   21
   22
   22
   Glucose
   144
   200
   151
   Other labs: PT / PTT / INR:32.3/60.8/3.3, CK / CKMB / Troponin-T:48//,
   ALT / AST:26/46, Alk Phos / T Bili:113/0.8, Amylase / Lipase:23/15,
   Differential-Neuts:60.0 %, Band:8.0 %, Lymph:12.0 %, Mono:7.0 %,
   Eos:0.0 %, D-dimer:3053 ng/mL, Fibrinogen:1020 mg/dL, Lactic Acid:3.3
   mmol/L, Albumin:2.0 g/dL, LDH:1222 IU/L, Ca++:7.5 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Imaging: [**9-23**] LENIs -
   No evidence of DVT bilaterally in the lower extremities.
   Assessment and Plan
   66 year old gentleman with h/o carcinoid  lung CA s/p resection and no
   adjuvant chemo/XRT who presents with acute febrile illness, mediastinal
   lymphadenopathy, pulmonary infiltrates, confusion/delirium, and
   anemia/leukocytosis concerning for heme malignancy vs carcinoid ca
   recurrence, as well as hypoxemic respiratory failure due to ARDS.
   #Hypoxemic resp failure [**1-12**] ARDS
 mild improvement in oxygenation; cx
   data neg to date
   - low Vt ventilation, cont current PEEP setting
   - wean FiO2 to maintain PO2 > 80
   - now on doxycyline alone
   - f/u BAL cultures
   # Fever:  High fevers with negative blood cultures to date could be
   broad between neoplastic, infectious, and rheumatologic entities. Given
   the enlarged mediastinal nodes, this could be lymphoma/myelodyscrasia,
   adenoca of lung or pancreas, squamous ca, or a reactive process to
   infection. The pulmonary infiltrates suggest a superimposed pneumonic
   process, that could be bacterial, or less likely eosinophilic pneumonia
   or fungal pneumonia. DAH or DIP is less likely given distribution.
   Given elevated ferritin >assay ([**2112**]), HLH/hemophagocytic syndrome
   merits consideration. BM bx pending for presence. This is doubtful to
   be primary sweets, and the neutrophilic dermatosis seen on OSH is
   likely secondary to the as of yet undetermined process.  ?drug effect.
    - For Infectious Sources
    -- d/c broad spectrum antibx on [**9-23**], now on doxy only while awaiting
   tick borne cultures
    -- f/u  ehrlichia
   -- f/u bronch for BAL, cytology and cultures - NGTD
    -- f/u ID recs
   - For neoplastic processes
   -- LUQ U/S showed borderline splenomegaly
   -- f/u bone marrow biopsy - prelim no leukemia or MDS
   -- f/u heme onc recs
   -- appreciate endo recs
 carcinoid markers sent
   -- 600mg motrin alternating with Tylenol for defervese
   -- we will need to obtain tissue of the lymph node, possibly under
   bronchoscopy (would need ETT <8.5, PEEP <5) v. EUS bx (will d/w CTS)
   -- f/u CT scan showing pancreatic nodules concerning for malignancy
   # Distributive shock
 switched levo to neo for tachycardia, able to
   wean, now off pressures
   - cont stress dose steroids (day 3),
   - will discuss taper with heme onc today
    #Acute renal failure
 Has been given significant fluid resuscitation
   for the last 2 days, positive 5L for last 2 days, Cr now 1.6 down from
   1.7
   - U/A, urine lytes show pre-renal (FeNa .2)
   - no urine eos
   - continues to make good urine
   - avoid nephrotoxins, renally dose medications
   # Volume overload:
   - will try Lasix 20 mg IV
   - [**Hospital1 7**] lytes to monitor Cr
   # Altered Mental Status: likely delirium, though cannot r/o
   encephalitis. viral encephalitis serologies are pending. Hypercalcemia
   also contributing, although now corrected. ? carcinoma meningitis.
   - Attempt cisternal CSF sampling (IR) and MRI
   # Back Pain: likely exacerbation of chronic LBP. OSH MRI per d/c
   summary showed no mass/abscess.
   - hold off repeating spine MRI for now given hemodynamic instability
   # HIT positive/coagulopathy:  LE ultrasound neg for clot
   - will follow-up optical density and send off SRA
   - Continue argatroban
   - Appreciate heme recs
   # History of Lung Cancer: OSH show history of carcinoid. Lymph node
   supicious for recurrence or a second malignancy.  Tissue diagnosis is
   needed if marrow bx is unrevealing. Would start with subcarinal node
   first, and potential VATS bx if unrevealing.
   -d/w IP, currently on hold as on argatroban
   # Leukocytosis: likely MDS but now on high dose steroids
   - f/u cultures - NGTD
   - c. difficile today
   - f/u peripheral flow cytometry here
   - f/u bone marrow bx. At this point, appears to be MDS.
   -appreciate heme/onc recs
   # Anemia: Elevated ferretin favors anemia of chronic disease. Potential
   source of bleeding include gastritis.
   - guaiac all stools
   - active T&S
   - pm HCT
   # Thrombocytopenia: Given elevated INR, this is likely related to HIT.
   A consumptive coagulopathy merits consideration. Also consider
   vancomycin.
   - Continue argatroban
   - trend plts
   - transfuse for active bleeding or plt<10
   - check DIC labs, obtain peripheral smear
   # Hypercalcemia: rec'd IV pamidronate, and IV fluids.  PTH is not
   suppressed and is indeed high, suggesting a primary
   hyperparathyroidism. PTHrP pending here.
   - would consider scan for parathyroid adenoma, though will defer this
   and treat hypercalcemia at this point given critical illness.
   - repleting VitaminD
   - endo following, appreciate recs
   # Sweet
s Syndrome / Neutrophilic Dermatoses: likely secondary to a
   second process
MDS, malignancy, bactrim
   - stress dosed steroid for now
   - try to get path reports and slides for OSH
   # FEN
   - cont tube feeds
   ICU Care
   Nutrition:
   Ensure (Full) - [**2122-9-24**] 12:37 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: Full code
   Disposition:  ICU

2122-09-25 07:30:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
 FEVER - 102.8
F - [**2122-9-24**] 10:00 PM
   - sent beta2microglobulin, CMV
   - switch to po prednisone 60 mg
   - restarted vanc/zosyn for bilateral PNA in the setting of worsening
   respiratory status and hypoxemia
   - given an add'l 40mg IV lasix with 500 cc UOP
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2122-9-23**] 09:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-9-24**] 06:05 AM
   Doxycycline - [**2122-9-24**] 08:44 PM
   Piperacillin - [**2122-9-24**] 11:51 PM
   Infusions:
   Argatroban - 2 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-24**] 08:50 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-9-25**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.7
C (98.1
   HR: 105 (93 - 123) bpm
   BP: 144/57(81) {100/57(74) - 151/79(96)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95 kg (admission): 85.6 kg
   Height: 69 Inch
    CVP: 7 (6 - 19)mmHg
   Bladder pressure: 25 (25 - 25) mmHg
   Total In:
                                                                  2,187 mL
                                                                    534 mL
   PO:
   TF:
                                                                    475 mL
                                                                    213 mL
   IVF:
                                                                  1,422 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    770 mL
   Urine:
                                                                  2,830 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -643 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 29 cmH2O
   SpO2: 93%
   ABG: 7.38/35/68/21/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 85
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), reg tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Rhonchorous: bilaterally )
   Abdominal: Soft, No(t) Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash: scattered petechiae over bilat UE
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   42 K/uL
   7.2 g/dL
   196 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.5 mEq/L
   78 mg/dL
   113 mEq/L
   146 mEq/L
   22.1 %
   28.6 K/uL
        [image002.jpg]
                            [**2122-9-23**]  03:52 PM
                            [**2122-9-23**]  04:23 PM
                            [**2122-9-24**]  03:58 AM
                            [**2122-9-24**]  04:42 AM
                            [**2122-9-24**]  06:36 AM
                            [**2122-9-24**]  12:45 PM
                            [**2122-9-24**]  04:21 PM
                            [**2122-9-24**]  04:30 PM
                            [**2122-9-25**]  03:05 AM
                            [**2122-9-25**]  04:11 AM
   WBC
   29.5
   30.2
   28.6
   Hct
   24.1
   22.5
   22.1
   Plt
   45
   41
   42
   Cr
   1.7
   1.6
   1.7
   1.6
   TCO2
   21
   22
   22
   23
   23
   22
   Glucose
   200
   151
   174
   196
   Other labs: PT / PTT / INR:34.3/73.9/3.5, CK / CKMB / Troponin-T:48//,
   ALT / AST:26/46, Alk Phos / T Bili:113/0.8, Amylase / Lipase:23/15,
   Differential-Neuts:71.0 %, Band:3.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:4738 ng/mL, Fibrinogen:281 mg/dL, Lactic Acid:2.8 mmol/L,
   Albumin:2.0 g/dL, LDH:1222 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.4 mg/dL
   Imaging: [**9-24**] portable CXR
   As compared to the previous radiograph, the pre-existing left-sided
   opacities have minimally increased; the extent of the pre-existing
   right-sided
   opacities have minimally decreased. The retrocardiac areas of the lung
   parenchyma are slightly better ventilated. No evidence of newly
   occurred
   focal parenchymal opacities. The monitoring and support devices are in
   unchanged position.
   Microbiology: [**2122-9-20**] 9:43 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE .
      GRAM STAIN (Final [**2122-9-20**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2122-9-22**]):    NO GROWTH, <1000 CFU/ml.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2122-9-21**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   66M h/o carcinoid  lung CA s/p resection and no adjuvant chemo/XRT
   admitted with acute febrile illness, mediastinal lymphadenopathy,
   pulmonary infiltrates, confusion/delirium, and anemia/leukocytosis
   concerning for heme malignancy, as well as hypoxemic respiratory
   failure due to ARDS.
   #Hypoxemic resp failure [**1-12**] ARDS
 worsening oxygenation attributable
   to bilateral PNA and mild volume overload requiring higher FiO2 and
   PEEP; esophageal balloon [**9-24**] showed under-PEEP'd by 2 cmH2O but not
   fully paralyzed during the study; Cx data neg to date
   - prefer low Vt ventilation with PIP<30
   - wean FiO2 as tolerated to maintain PO2 > 80, sat>92%
   - cont broad spectrum ABX pending sputum, blood Cx data
   -gentle diuresis to maintain goal -500 to -1L
   # Fever - most attributable to VAP but fevers have been ongoing prior
   to development of infiltrates on CXR, invoking a neoplastic process
   (MDS seen on BMBx) particularly given mediastinal LAD
    -cont vanc/zosyn (day 1 = [**9-24**])
   -cont doxycycline for atypical/intracellular pathogens
   -taper high-dose corticosteroids
   -repeat cx
   -f/u cmv VL
   -repeat c. diff
   -reconsider bronch bx if resp status improves, PEEP requirement
   diminishes
    #Acute renal failure
 nonoliguric; low UNa reflects pre-renal
   physiology perhaps from 3rd spacing and loss of intravascular volume
   -trend renal indices, UOP
   - avoid nephrotoxins, renally dose medications
   #Encephalopathy - CSF from [**9-17**] LP nondiagnostic with negative
   cytology, but cannot exclude malignancy unless have 3 neg large-volume
   taps & would therefore favor cisternal LP as per neuro recs to exclude
   this diagnosis; no data to date to confirm CSF infection
   -appreciate neuro recs
   -attempt MRI head & cisternal LP if stabilizes for transfer
   #HIT - plts cont to trend downward more likely due to underlying MDS or
   undiagnosed hematologic process; low fibrinogen & high FDP/d-dimer
   suggestive of DIC but would defer cryo therapy unless fibrinogen <200
   -appreciate heme recs
   -cont argatroban
   -f/u optical density, SRA
   -trend DIC labs
   # Anemia: Elevated ferretin favors anemia of chronic disease. Potential
   source of bleeding include gastritis.
   - guaiac all stools
   - active T&S
   - pm HCT
   ICU Care
   Nutrition:
   Ensure (Full) - [**2122-9-25**] 12:49 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-9-20**] 01:03 AM
   Multi Lumen - [**2122-9-20**] 09:34 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU